US06646088B2
N3300/Bicine/FBSEE/MeFBSE/GA/APTMS (2/0.5/0.5/2.8/1.8/0.25)
In a 250 ml bottle equipped with a magnetic stirrer, heating mantel, temperature controller, and dry nitrogen purge, was added DESMODUR™ N-3300 (N3300) (13.19 g, 0.020 mole, 0.068 equivalent), FBSEE (1.885 g, 0.00487 mole, 0.00974 equivalent), bicine (HOCH2CH2)2NCH2COOH) (0.815 g, 0.0050 mole, 0.010 equivalent —OH, 0.0050 equivalent —COOH), 4 drops of dibutyltin dilaurate, and 30 g N-methylpyrrolidone. The resulting mixture was stirred and heated at 70° C. for one hour, followed by addition of MeFBSE (9.996 g, 0.028 mole, 0.028 equivalent), and glycolic acid (1.368 g, 0.018 mole, 0.018 equivalent). The resulting reaction mixture was heated for another hour at 70° C., followed by addition of APTMS (0.442 g, 0.0025 mole, 0.0025 equivalent) and heated with stirring at 70° C. for an additional two hours. A 5 g portion of the resulting unneutralized chemical composition was taken for GPC analysis, and the remaining composition was cooled to 60° C. and then neutralized by adding to the composition an amount of methyldiethanolamine equivalent to the number of equivalents of carboxylic acid groups present. After 10 minutes at 60° C. the mixture was cooled and a portion of the resulting neutralized chemical composition was diluted with water to form an aqueous solution containing 3% by weight of the chemical composition. The 3% aqueous solution was evaluated for performance using Test Method I, and the results are shown in Table 3. The GPC analysis, conducted according to Test Method III, showed that the unneutralized chemical composition was comprised of components having a weight average molecular weight (Mw) of 22,183, a number average molecular weight (Mn) of 4,553, and a polydispersity (Mw/Mn) of 4.872. thus indicating the presence of both high and low molecular weight components.

reactant | N-methylpyrrolidone | 30 g | CN1C(CCC1)=O | C5H9NO
reactant | glycolic acid | 0.018 mole, 1.368 g, 0.018 equivalent | C(CO)(=O)O | C2H4O3
reactant | methyldiethanolamine | CN(CCO)CCO | C5H13NO2
catalyst | dibutyltin dilaurate | 4 drops | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | water | O | H2O
product | Bicine | O=C(CN(CCO)CCO)O | C6H13NO4
